US05025031
Sulfamic Acid Phenyl Ester
The compound was prepared by procedures of Example 16 from sulfamoyl chloride and phenol in 30% yield as white solid, mp 81°-85° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | Sulfamic Acid Phenyl Ester | 30% yield | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
